US07476492B2
Synthesis of 1-ethyl-2-methoxycyclohexyl methacrylate
1-ethyl-2-methoxycyclohexanol from the previous step (10 g, 0.063 mole) in 50 ml ether was placed in a three neck flask equipped with a water condenser, addition funnel and a nitrogen inlet. This solution was cooled in an ice/water bath and n-butyllithium, 1.6 molar in hexane (45 ml, 0.072 mole) was added dropwise. The contents were allowed to warm to room temperature and stirred for 30 minutes. The mixture was cooled again in ice/water bath and methacryloyl chloride (7.31 g, 0.070 mole) in 25 ml ether was added dropwise and heated to reflux for 30 minutes. The reaction mixture was cooled to room temperature and quenched with 125 ml of deionized water. The organic phase was separated and the water phase was extracted with 50 ml ether. The combined ether solutions were washed with 100 ml brine and dried over anhydrous magnesium sulfate. The solvent was removed in a rotary evaporator and the crude product was chromatographed on a neutral alumina column using hexane as elutant. The product was a clear liquid (9.79 g) which was characterized by NMR and IR.

reactant | 1-ethyl-2-methoxycyclohexanol | C(C)C1(C(CCCC1)OC)O | C9H18O2
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 0.072 mole, 45 ml | CCCCCC | C6H14
reactant | methacryloyl chloride | 0.070 mole, 7.31 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 25 ml | CCOCC | C4H10O
product | 1-ethyl-2-methoxycyclohexyl methacrylate | C(C(=C)C)(=O)OC1(C(CCCC1)OC)CC | C13H22O3
